US07902181B2
d) (S)-2-Amino-3-(4-(phenylsulfonyl)phenyl)propanamide
To a stirred solution of (S)-tert-butyl 1-amino-1-oxo-3-(4-(phenylsulfonyl)phenyl)propan-2-ylcarbamate (440 mg) in DCM (10 mL) at 0° C. was added TFA (2.51 mL). The mixture was allowed to warm to RT and stirred for 1 h. The mixture was concentrated in vacuo and partitioned between saturated aqueous sodium bicarbonate and ethyl acetate, dried over sodium sulfate, filtered and concentrated in vacuo to leave the subtitle compound (175 mg) as a white solid.

reactant | (S)-tert-butyl 1-amino-1-oxo-3-(4-(phenylsulfonyl)phenyl)propan-2-ylcarbamate | 440 mg | NC([C@H](CC1=CC=C(C=C1)S(=O)(=O)C1=CC=CC=C1)NC(OC(C)(C)C)=O)=O | C20H24N2O5S
reactant | TFA | 2.51 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-Amino-3-(4-(phenylsulfonyl)phenyl)propanamide | 175 mg | N[C@H](C(=O)N)CC1=CC=C(C=C1)S(=O)(=O)C1=CC=CC=C1 | C15H16N2O3S
